US04876261
To 700 mg of 7,8-dimethoxy-4-(3,4-dimethoxyphenyl)-1,2,3,4-tetrahydroisoquinoline, was added 14 ml of 48% hydrobromic acid, and the mixture was heated under reflux for 3 hours under an argon gas stream. The reaction mixture was cooled, and the crystals which separated ount were collected by filtration, giving 540 mg of 7,8-dihydroxy-4-(3,4-dihydroxyphenyl)-1,2,3,4-tetrahydroisoquinoline hydrobromide.

reactant | 7,8-dimethoxy-4-(3,4-dimethoxyphenyl)-1,2,3,4-tetrahydroisoquinoline | 700 mg | COC1=CC=C2C(CNCC2=C1OC)C1=CC(=C(C=C1)OC)OC | C19H23NO4
reactant | hydrobromic acid | 14 ml | Br | BrH
product | 7,8-dihydroxy-4-(3,4-dihydroxyphenyl)-1,2,3,4-tetrahydroisoquinoline hydrobromide | 540 mg | Br.OC1=CC=C2C(CNCC2=C1O)C1=CC(=C(C=C1)O)O | InChI=1S/C15H15NO4.BrH/c17-12-3-1-8(5-14(12)19)10-6-16-7-11-9(10)2-4-13(18)15(11)20;/h1-5,10,16-20H,6-7H2;1H
